US07612201B2
Benzyl bromide (4.84 mL, 6.97 g, 40.76 mmol) was added dropwise over 5 minutes to a mixture of give N-(4-acetyl-3-hydroxy-phenyl)-acetamide (7.50 g, 38.82 mmol) and Cs2CO3 (25.30 g, 77.64 mmol) in DMF (175 mL) at room temperature. After stirring for 18 hours, the solvent was removed in vacuo, and the residue stirred vigourously with water (200 mL) and DCM (200 mL) until dissolution was complete. The layers were separated, and the aqueous further extractede with DCM (2×200 mL). The combined organic layers were dried (MgSO4) and the solvents removed in vacuo. The residue was taken up in PhMe (150 mL) and evaporated to dryness, whereupon crystals started to form. The mixture was re-suspended in PhMe (100 mL) and refluxed for 1 hr with activated charcoal (5 g). The hot solution was filtered and allowed to cool. The product was collected by filtration to give N-(4-acetyl-3-benzyloxy-phenyl)-acetamide (5.79 g, 53%) as colourless crystals; δH (CDCl3) 7.83 (1H, m), 7.76 (1H, d, J=8.5 Hz), 7.58 (1H, br s), 7.45-7.32 (6H, m), 6.74 (1H, dd, J=8.5, 1.9 Hz), 5.15 (2H, s), 2.56 (3H, s), 2.19 (3H, s); LCMS retention time 2.33 min, M+H+ 284.3.

reactant | Benzyl bromide | 40.76 mmol, 4.84 mL, 6.97 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N-(4-acetyl-3-hydroxy-phenyl)-acetamide | 38.82 mmol, 7.50 g | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)O | C10H11NO3
reactant | Cs2CO3 | 77.64 mmol, 25.30 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | charcoal | 5 g | C | CH4
solvent | DMF | 175 mL | CN(C)C=O | C3H7NO
solvent | PhMe | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-acetyl-3-benzyloxy-phenyl)-acetamide | 5.79 g, 53% | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)OCC1=CC=CC=C1 | C17H17NO3
